US05397798
A. N-[(3-Imidazol-1-yl)propyl]-2-nitrobenzenesulfonamide
A solution of 11.5 g (0.0519 mol) of o-nitrobenzenesulfonyl chloride in approximately 30 ml of dichloromethane was added slowly over several minutes to a cold (0° C.) solution of 5.4 g (0.043 mol) of N-(3-aminopropyl)imidazole in 100 ml pyridine, under nitrogen. The resulting reaction mixture was gradually warmed to room temperature and allowed to react overnight. When the reaction was complete, as determined by thin layer chromatography, the reaction solution was reduced to dryness under reduced pressure. The resultant oil was redissolved in an ethyl acetate/aqueous sodium bicarbonate mixture containing trace amounts of ethanol and propanone. The resulting layers were separated, the organic layer was washed with water and then reduced to dryness under reduced pressure to provide a gum. This gum was then purified using column chromatography (8000 ml of a gradient eluent of 0-10% methanol in dichloromethane). The fractions containing the desired product were combined, reduced to dryness under reduced pressure and then recrystallized from methanol to provide 3.4 g of the desired subtitled intermediate (m.p. 166°-170° C).

reactant | o-nitrobenzenesulfonyl chloride | 0.0519 mol, 11.5 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | N-(3-aminopropyl)imidazole | 0.043 mol, 5.4 g | NCCCN1C=NC=C1 | C6H11N3
reactant | ethanol | C(C)O | C2H6O
reactant | propanone | CC(C)=O | C3H6O
solvent | dichloromethane | approximately 30 ml | ClCCl | CH2Cl2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[(3-Imidazol-1-yl)propyl]-2-nitrobenzenesulfonamide | 3.4 g | N1(C=NC=C1)CCCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C12H14N4O4S
